US05250522
(S)-3-t-Butoxycarbonyl-amino-4-(biphenyl-4-yl)-butyric acid methyl ester (716 mg, 2 mmol) is stirred for 1 hour in a 1/l mixture of trifluoroacetic acid and methylene chloride (5 mL). Ethyl acetate (20 mL) is added and the solution is washed with saturated sodium bicarbonate (20 mL). The organic layer is separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue is dissolved in methylene chloride (10 mL) and cooled to 0° under nitrogen. Diisopropyl ethylamine (0.42 mL, 2.4 mmol) is added, followed by a solution of dimethylphosphonomethyl trifluoromethylsulfonate (Tetrahedron Lett., 1986, 1477; 545 mg, 2.2 mmol). The mixture is stirred for 18 hours at room temperature. The solution is washed with saturated sodium bicarbonate, water and brine. The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash-chromatography to afford (S)-4-(biphenyl-4-yl)-3-[(dimethylphosphonomethyl)-amino]-butyric acid methyl ester as a white solid, m.p. 67°.

reactant | (S)-3-t-Butoxycarbonyl-amino-4-(biphenyl-4-yl)-butyric acid methyl ester | 2 mmol, 716 mg | COC([C@H](C(CC1=CC=C(C=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)N)=O | C22H27NO4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Diisopropyl ethylamine | 2.4 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylphosphonomethyl trifluoromethylsulfonate | 2.2 mmol, 545 mg | FC(F)(F)S(=O)(=O)OCP(=O)(OC)OC | C4H8F3O6PS
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(biphenyl-4-yl)-3-[(dimethylphosphonomethyl)-amino]-butyric acid methyl ester | COC(C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NCP(=O)(OC)OC)=O | C20H26NO5P
